US04794138
7-(3-methyl-5-t-butyl-4-hydroxyphenyl)heptanoic acid.--To a cooled (-5° C.) solution of 103 parts of ethyl 6-chloroformyl hexanoate in 100 parts by volume of ethylene chloride is rapidly added with stirring 133 parts of granular anhydrous aluminum chloride. To this mixture is next added a solution of 88 parts of 2-methyl-6-t-butylphenol in 500 parts by volume of ethylene chloride. The reaction mixture is stirred at -5° C. for 5 hours and then allowed to slowly attain room temperature overnight. At the end of this time the material is poured over ice, rendered acidic with 6N hydrochloric acid and extracted with ether. The combined extracts are successively washed with water, dilute aqueous sodium bicarbonate solution and saturated aqueous sodium bicarbonate solution. After drying over sodium sulfate, the solvent is removed under reduced pressure to yield ethyl 6-(3-methyl-5-t-butyl-4-hydroxybenzoyl)hexanoate, which is saponified with excess potassium hydroxide in methanol. After acidification of the reaction mixture, the solid, comprising 6-( 3-methyl-5-t-butyl-4-hydroxybenzoyl)hexanoic acid, is subjected to a Clemmenson reduction as modified by Martin [J.A.C.S. 58, 1438 (1936)] to yield 7-(3-methyl-5-t-butyl-4-hydroxyphenyl)heptanoic acid which is esterified with ethanol and p-toluenesulfonic acid to yield the corresponding ethyl ester.

reactant | 7-(3-methyl-5-t-butyl-4-hydroxyphenyl)heptanoic acid | CC=1C=C(C=C(C1O)C(C)(C)C)CCCCCCC(=O)O | C18H28O3
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-methyl-6-t-butylphenol | CC1=C(C(=CC=C1)C(C)(C)C)O | C11H16O
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | ethylene chloride | C(CCl)Cl | C2H4Cl2
product | ethyl 6-(3-methyl-5-t-butyl-4-hydroxybenzoyl)hexanoate | CC=1C=C(C(=O)CCCCCC(=O)OCC)C=C(C1O)C(C)(C)C | C20H30O4
